US06916767B2
3-Amino-N-(4-anilinophenyl)-butanamide
Thirty grams (0.11 mol) of N-(4-anilinophenyl)-3-oxo butanamide was dissolved in 300 ml of toluene. This was mixed with 30 g. (1.8 mol) of anhydrous ammonia, Raney nickel catalyst, and 800 psi of hydrogen gas at a temperature of 70° C. for 2 hours. The catalyst was removed and the solvent stripped off under vacuum. Purification was done by flash chromatography and recrystallization from hot toluene. The product was obtained in a yield of 16 g. with a melting point of 130-132° C.

reactant | N-(4-anilinophenyl)-3-oxo butanamide | 0.11 mol, Thirty grams | N(C1=CC=CC=C1)C1=CC=C(C=C1)NC(CC(C)=O)=O | C16H16N2O2
reactant | ammonia | 1.8 mol | N | H3N
reactant | hydrogen | [H][H] | H2
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Raney nickel | [Ni] | Ni
product | 3-Amino-N-(4-anilinophenyl)-butanamide | NC(CC(=O)NC1=CC=C(C=C1)NC1=CC=CC=C1)C | C16H19N3O
